US07851473B2
(1) 2-Bromo-1-(3-methylphenyl)ethanone
Bromine (2.38 g, 14.9 mmol) was slowly added dropwise to a solution of 1-[3-methylphenyl]ethanone (2.00 g, 14.9 mmol) in diethyl ether (50 ml), and the mixture was stirred at room temperature for 4 hours. The reaction mixture was distilled off under reduced pressure to give 3.03 g (95.3%) of the desired product as an oil.

reactant | Bromine | 14.9 mmol, 2.38 g | BrBr | Br2
reactant | 1-[3-methylphenyl]ethanone | 14.9 mmol, 2.00 g | CC=1C=C(C=CC1)C(C)=O | C9H10O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 2-Bromo-1-(3-methylphenyl)ethanone | 3.03 g, 95.3% | BrCC(=O)C1=CC(=CC=C1)C | C9H9BrO
